US04182769
1-Acetyl-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole
A mixture of 1.8 g (0.005 mole) of 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole and 25 ml acetic anhydride was heated at reflux seven hours, then cooled and stirred at room temperature for four days. Most of the acetic anhydride and acetic acid were removed at reduced pressure (~0.5 mm). The white solid residue was chromatographed on silica gel, eluting with toluene, to give 0.8 g of white product, mp 143°-4° (from hexane).

reactant | 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | 0.005 mole, 1.8 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SC(C(F)F)(F)F | C17H12F4N2S
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | 0.8 g | C(C)(=O)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SC(C(F)F)(F)F | C19H14F4N2OS
